US04933355
5-{1-Ethoxycarbonyl-1-[2-(3-p-toluenesulfonylureido)thiazol-4-yl]methylene}rhodanine-3-acetic acid monohydrate
Following a procedure similar to that described in Example 1, the desired compound was prepared from 4 g of ethyl 2-(3-p-toluenesulfonylureido)thiazol-4-ylglyoxylate, 2 g of rhodanine-3-acetic acid, 1 g of ammonium chloride, 1 ml of 28% v/v aqueous ammonia and 10 ml of ethanol. The resulting product was a yellow powder having the following physical properties.

reactant | ethyl 2-(3-p-toluenesulfonylureido)thiazol-4-ylglyoxylate | 4 g | C1(=CC=C(C=C1)S(=O)(=O)NC(NC=1SC=C(N1)C(C(=O)OCC)=O)=O)C | C15H15N3O6S2
reactant | rhodanine-3-acetic acid | 2 g | S1C(=S)N(C(=O)C1)CC(=O)O | C5H5NO3S2
reactant | ammonium chloride | 1 g | [Cl-].[NH4+]
reactant | ammonia | N | H3N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 5-{1-Ethoxycarbonyl-1-[2-(3-p-toluenesulfonylureido)thiazol-4-yl]methylene}rhodanine-3-acetic acid monohydrate | O.C(C)OC(=O)C(C=1N=C(SC1)NC(=O)NS(=O)(=O)C1=CC=C(C=C1)C)=C1C(N(C(S1)=S)CC(=O)O)=O | InChI=1S/C20H18N4O8S4.H2O/c1-3-32-17(28)14(15-16(27)24(8-13(25)26)20(33)35-15)12-9-34-19(21-12)22-18(29)23-36(30,31)11-6-4-10(2)5-7-11;/h4-7,9H,3,8H2,1-2H3,(H,25,26)(H2,21,22,23,29);1H2
